US04337247
(VI) Production of BOC-Tyr-(D)-Met(O)-Gly-MePhe-NHNHCONH2
In 3 ml of acetic acid is dissolved 0.35 g of BOC-Tyr-(D)-Met-Gly-MePhe-NHNHCONH2 followed by addition of 0.082 ml of 30% aqueous H2O2. The solution is stirred for 10 minutes, treated with 100 ml of ether and filtered to obtain a powder. Yield 0.35 g (88%); m.p. 110°-115° C.; [α]D24 -35.1° (c=1.04, DMF); Rf1 0.05.

reactant | BOC-Tyr-(D)-Met-Gly-MePhe-NHNHCONH2 | 0.35 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCSC)C(=O)NCC(=O)N([C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)N)C)C(=O)OC(C)(C)C | C32H45N7O8S
reactant | H2O2 | 0.082 ml | OO | H2O2
reactant | ether | 100 ml | CCOCC | C4H10O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | BOC-Tyr-(D)-Met(O)-Gly-MePhe-NHNHCONH2 | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCS(=O)C)C(=O)NCC(=O)N([C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)N)C)C(=O)OC(C)(C)C | C32H45N7O9S
